US07229835B2
To a suspension of P-HOBT 1 (0.212 g, 0.125 mmol) in CH2Cl2 (5 mL) was added acetic anhydride (0.216 g, 0.200 mL, 2.12 mmol, 17 equiv.) and pyridine (0.234 g, 0.240 mL, 2.96 mmol, 24 equiv.). The suspension was subsequently rocked for 60 minutes at 25° C. The polymer was then filtered and washed with CH2Cl2 (3×5 mL), NMP (3×5 mL), CH2Cl2 (3×5 mL), and anhydrous Et2O (3×5 mL). The polymer was re-suspended in CH2Cl2 (5 mL) and benzylamine (0.0098 g, 0.010 mL, 0.91 mmol, 0.73 equiv. based on P-HOBT) was added. The suspension was rocked at 25° C. for 4 h. The polymer was then filtered and washed with CH2Cl2 (4×5 mL). The filtrate and washings were combined and concentrated to yield 0.014 g (100%) of N-benzylacetamide as a white solid.

reactant | acetic anhydride | 2.12 mmol, 0.200 mL, 0.216 g, 17 equiv. | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 2.96 mmol, 0.240 mL, 0.234 g, 24 equiv. | N1=CC=CC=C1 | C5H5N
reactant | benzylamine | 0.91 mmol, 0.010 mL, 0.0098 g, 0.73 equiv. | C(C1=CC=CC=C1)N | C7H9N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-benzylacetamide | 0.014 g, 100% | C(C1=CC=CC=C1)NC(C)=O | C9H11NO
